US09062092B2
A solution of (S)-1-{(S)-2-[(S)-2-(2-{(E)-2-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}-tetrahydro-pyran-2-carbonyloxy)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloroethyl ester (42 mg, 0.05 mmol) in tetrahydrofuran (2 mL) was stirred at 0° C. under nitrogen. An ice-cold aqueous solution of sodium hydroxide (0.1 M, 0.5 mL, 0.05 mmol) was added and the reaction mixture was stirred at 0° C. for 30 minutes. Additional sodium hydroxide solution (0.1 M, 1.0 mL, 0.1 mmol) was added and the reaction mixture was stirred at 0° C. for 1 h. Additional sodium hydroxide solution (0.1 M, 1.0 mL, 0.1 mmol) was added and the reaction mixture was stirred at 0° C. for 90 minutes. Cold hydrochloric acid (1 M) was added to acidify the mixture to pH 2 and the solvent was evaporated. The residue was co-evaporated with tetrahydrofuran/toluene (1:1, 3×) and the residue was triturated with diethyl ether (2×) and the resulting solid was dried to afford (S)-1-{(S)-2-[(S)-2-(2-{(E)-2-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}-tetrahydro-pyran-2-carbonyloxy)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid (0.05 mmol) as a yellow solid and as a 1:1 mixture of diastereoisomers which was used crude in the next reaction. LCMS (m/z) 710.3 [M+H], Tr=2.80 min.

reactant | (S)-1-{(S)-2-[(S)-2-(2-{(E)-2-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}-tetrahydro-pyran-2-carbonyloxy)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloroethyl ester | 0.05 mmol, 42 mg | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)OC(=O)C1(OCCCC1)\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)OC(C)(C)C)=O)=O)(Cl)Cl | C39H52Cl3N5O9
reactant | sodium hydroxide | 0.05 mmol, 0.1 M, 0.5 mL | [OH-].[Na+]
reactant | sodium hydroxide | 0.1 mmol, 0.1 M, 1.0 mL | [OH-].[Na+]
reactant | sodium hydroxide | 0.1 mmol, 0.1 M, 1.0 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (S)-1-{(S)-2-[(S)-2-(2-{(E)-2-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}-tetrahydro-pyran-2-carbonyloxy)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid | 0.05 mmol | C(C)(C)(C)OC(=O)N[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C1(OCCCC1)C(=O)O[C@H](C(=O)N[C@H](C(=O)N1N[C@@H](CCC1)C(=O)O)C)C(C)C | C37H51N5O9
